US04824846
A mixture of 12.77 g (37.5 mmol) of 1-(4-hydroxyphenyl)piperazine dihydrobromide, 7.13 g (37.6 mmol) of 2-chloro-6-phenylpyridine, 8 g (58 mmol) of K2CO3 and 145 ml of absolute DMF were refluxed for 24 hours with stirring. The DMF was then removed by distillation in vacuo. CH2Cl2 /water was added to the residue, the mixture was shaken thoroughly, the phases were separated, and the aqueous solution was extracted repeatedly with CH2Cl2. After drying and filtering, the combined CH2Cl2 extracts were evaporated. The residue was taken up in ethyl acetate, whereupon a crystalline precipitate was produced, which was filtered off under suction. This solid (4.89 g) was a byproduct, to be precise 1-(4-hydroxyphenyl)-4-formylpiperazine. The ethyl acetate solution (filtrate) was evaporated, and the residue remaining (12 g) was chromatographed on a silica gel/CH2Cl2 /petroleum ether 1:2 column (diameter 2.2 cm, height 44 cm). Elution was effected using CH2Cl2 /petroleum ether 1:2, 1:1 and 2:1 mixtures, with CH2Cl2, and with CH2Cl2 /C2H5OH mixtures (0.5-2.0% by volume of C2H5OH). After preliminary fractions, 2.82 g (=22.7% yield) of 1-(4-hydroxyphenyl)-4-(6-phenylpyrid-2-yl)piperazine were obtained as a highly viscous oil;

reactant | 1-(4-hydroxyphenyl)piperazine dihydrobromide | 37.5 mmol, 12.77 g | Br.Br.OC1=CC=C(C=C1)N1CCNCC1
reactant | 2-chloro-6-phenylpyridine | 37.6 mmol, 7.13 g | ClC1=NC(=CC=C1)C1=CC=CC=C1 | C11H8ClN
reactant | K2CO3 | 58 mmol, 8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 145 ml | CN(C)C=O | C3H7NO
product | 1-(4-hydroxyphenyl)-4-(6-phenylpyrid-2-yl)piperazine | 2.82 g, 22.7% yield | OC1=CC=C(C=C1)N1CCN(CC1)C1=NC(=CC=C1)C1=CC=CC=C1 | C21H21N3O
